US08895571B2
Step F: 2-[(1S)-2-amino-1-(cyclohexylmethyl)ethyl]-5-(1-methyl-1H-pyrazol-5-yl)isoindolin-1-one
A mixture of 2-{(2S)-3-cyclohexyl-2-[5-(1-methyl-1H-pyrazol-5-yl)-1-oxo-1,3-dihydro-2H-isoindol-2-yl]propyl}-1H-isoindole-1,3(2H)-dione (30 mg, 0.062 mmol) was dissolved in methanol (3 mL, 70 mmol) and hydrazine (0.3 mL, 10 mmol). The resulting mixture was stirred at 50° C. for 2 h. Direct purification on prep.—HPLC afforded 11 mg (50% yield) of the desired final product. LC-MS found: 353.1 (M+H)+.

reactant | 2-{(2S)-3-cyclohexyl-2-[5-(1-methyl-1H-pyrazol-5-yl)-1-oxo-1,3-dihydro-2H-isoindol-2-yl]propyl}-1H-isoindole-1,3(2H)-dione | 0.062 mmol, 30 mg | C1(CCCCC1)C[C@@H](CN1C(C2=CC=CC=C2C1=O)=O)N1C(C2=CC=C(C=C2C1)C1=CC=NN1C)=O | C29H30N4O3
reactant | methanol | 70 mmol, 3 mL | CO | CH4O
reactant | hydrazine | 10 mmol, 0.3 mL | NN | H4N2
product | 2-[(1S)-2-amino-1-(cyclohexylmethyl)ethyl]-5-(1-methyl-1H-pyrazol-5-yl)isoindolin-1-one | 11 mg, 50% yield | NC[C@H](CC1CCCCC1)N1C(C2=CC=C(C=C2C1)C1=CC=NN1C)=O | C21H28N4O
